US04469634
The 6-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine (1.00 g; 0.0056 mol) was heated at reflux in 15 ml of 48% hydrobromic acid, overnight, under argon. It was concentrated to obtain a brown solid which was dispersed in acetonitrile; the mixture was filtered and the solid dried to give 0.94 g of 6-hydroxy-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide, m.p. 220°-224°.

reactant | 6-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.0056 mol, 1.00 g | COC1=CC=CC=2CCNCCC21 | C11H15NO
reactant | hydrobromic acid | 15 ml | Br | BrH
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-hydroxy-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | 0.94 g | Br.OC1=CC=CC=2CCNCCC21 | InChI=1S/C10H13NO.BrH/c12-10-3-1-2-8-4-6-11-7-5-9(8)10;/h1-3,11-12H,4-7H2;1H
